US08048878B2
Synthesis of tert-butyl (2R,5S)-2-hydroxymethyl-5-(2,4,6-trifluorophenyl)pyrrolidine-1-carboxylate
Di-tert-butyl dicarbonate (5.21 g) was added to a solution of [(2R,5S)-5-(2,4,6-trifluorophenyl)pyrrolidin-2-yl]methanol (3.68 g) and triethylamine (4.4 mL) in DMF, and the reaction solution was stirred at room temperature for six hours. Imidazole (1 g) was added to the reaction solution, and the mixture was stirred for one hour. Then, ethyl acetate and ice-cooled 1 N aqueous hydrochloric acid were added to the solution, and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane->heptane:ethyl acetate=1:1) to obtain 2.82 g of the title compound. The property value of the compound is as follows.

reactant | Di-tert-butyl dicarbonate | 5.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | [(2R,5S)-5-(2,4,6-trifluorophenyl)pyrrolidin-2-yl]methanol | 3.68 g | FC1=C(C(=CC(=C1)F)F)[C@@H]1CC[C@@H](N1)CO | C11H12F3NO
reactant | Imidazole | 1 g | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 4.4 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl (2R,5S)-2-hydroxymethyl-5-(2,4,6-trifluorophenyl)pyrrolidine-1-carboxylate | 2.82 g | OC[C@@H]1N([C@@H](CC1)C1=C(C=C(C=C1F)F)F)C(=O)OC(C)(C)C | C16H20F3NO3
